US05096899
p-Nitrobenzyl 2-[4-chloro-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-4,4-dimethyl-3-oxopentanoate
660 μl of a solution containing 850 mg of chlorine in 10 ml of carbon tetrachloride is added to a solution of 244 mg (0.395 mmol) of p-nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxopentanoate in 16 ml of methylene chloride at -60° C. The pale yellow solution is stirred at -60° C. for 2 hours, and the solvent is removed in vacuo, to give 236 mg of a colourless, non-crystalline solid. IR spectrum in CH2Cl2 : 2930, 2850, 1795, 1765, 1725, 1620, 1530, 1355 cm-1.

reactant | chlorine | 850 mg | ClCl | Cl2
reactant | p-nitrobenzyl 4,4-dimethyl-2-[4-methylthio-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-3-oxopentanoate | 0.395 mmol, 244 mg | CC(C(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1SC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)(C)C | C28H31N3O11S
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 2-[4-chloro-3-(1-(p-nitrobenzyloxycarbonyloxy)-ethyl)-2-oxoazetidinyl]-4,4-dimethyl-3-oxopentanoate | ClC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C(C)(C)C)=O)=O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C27H28ClN3O11
